### PR TITLE
Universal algebra

### PR DESCRIPTION
**Pull request by andreaslyn**

### CODE REVIEW

File: theories/Classes/theory/ua_subalgebra.v [hunk 1]
```diff
@@ -143,27 +143,6 @@ Section hom_inc_subalgebra.
...
-      = hom_inc_subalgebra (cod_symboltype w)
-          (ap_operation (op_subalgebra A P α C) a).
-  Proof.
-    induction w.
-    - reflexivity.
-    - apply IHw.
-  Defined.
-
-  Lemma path_ap_operation_inc_subalgebra (u : Symbol σ)
-    (a : FamilyProd (A&P) (dom_symboltype (σ u)))
```
Comment (andreaslyn) [inline theories/Classes/theory/ua_subalgebra.v]: `path_ap_operation_inc_subalgebra` has been removed because it is just a degenerate version of `path_homomorphism_ap_operation` from `ua_homomorphism.v`

File: theories/Classes/interfaces/ua_congruence.v [hunk 2]
```diff
@@ -0,0 +1,81 @@
...
+    apply (equiv_hprop_allpath _)^-1.
+    intros [C1 C2 C3] [D1 D2 D3].
+    by destruct (path_ishprop C1 D1),
+                (path_ishprop C2 D2),
+                (path_ishprop C3 D3).
+  Defined.
+
+End congruence.
+
+(** If [Φ] is a contruence and [f : A s1 → A s2 → ... → A sn] an
```
Comment (Alizter) [inline theories/Classes/interfaces/ua_congruence.v]: `contruence` should be `congruence`

File: theories/Classes/theory/ua_quotient_algebra.v [hunk 3]
```diff
@@ -0,0 +1,349 @@
...
+  HoTT.Classes.implementations.list
+  HoTT.Classes.interfaces.abstract_algebra
+  HoTT.Classes.interfaces.ua_algebra
+  HoTT.Classes.interfaces.ua_congruence
+  HoTT.Classes.theory.ua_homomorphism.
+
+Import algebra_notations ne_list.notations.
+
+Section quotient_algebra.
+  Context
```
Comment (Alizter) [inline theories/Classes/theory/ua_quotient_algebra.v]: Why not add `Funext` here to reduce clutter later on.

File: theories/Classes/interfaces/ua_congruence.v (hunk 2 above)
Comment (andreaslyn) [reply theories/Classes/interfaces/ua_congruence.v]: Good catch.

File: theories/Classes/theory/ua_quotient_algebra.v (hunk 3 above)
Comment (andreaslyn) [reply theories/Classes/theory/ua_quotient_algebra.v]: It is fixed.

**Comment by Alizter** [comment]
@spitters @mikeshulman @SkySkimmer What do you think?
